US04376678
This invention uses 2,2-bis(3,5-dinitro-4-hydroxyphenyl) propane as a polymerization inhibitor. For the sake of convenience, this compound will also be called tetranitrobisphenol A. A method of synthesizing said compound is described in Stroganov et al, Zh. Org. Khim 1973, 9(8), 1713-17, and Smirnov and Stroganov USSR Pat. No. 237,860 (1969). Thus, 2,2-bis(4-hydroxyphenyl)propane is nitrated with a concentrated nitric acid (for instance 70% HNO3) in a suitable solvent such as dichloroethane to afford primarily 2,2-bis(4-hydroxy-3-nitro-phenyl)propane. A typical reaction condition for this step is 20°-30° C. for 2 hours. Without isolating the product, a mixture of sulfuric acid and nitric acid (for instance, 42% H2SO4, 50% HNO3, and 8% H2O) is added to the reaction mixture and nitration continued to afford tetranitrobisphenol A. A typical reaction condition for the second step is 40° C. for 2 hours. The desired product is isolated by a routine procedure.

reactant | 2,2-bis(3,5-dinitro-4-hydroxyphenyl) propane | [N+](=O)([O-])C=1C=C(C=C(C1O)[N+](=O)[O-])C(C)(C)C1=CC(=C(C(=C1)[N+](=O)[O-])O)[N+](=O)[O-] | C15H12N4O10
reactant | tetranitrobisphenol A | [N+](=O)([O-])C1=C(C(=C(C(=C1O)[N+](=O)[O-])[N+](=O)[O-])C(C)(C)C1=CC=C(C=C1)O)[N+](=O)[O-] | C15H12N4O10
reactant | 2,2-bis(4-hydroxyphenyl)propane | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 2,2-bis(4-hydroxy-3-nitro-phenyl)propane | OC1=C(C=C(C=C1)C(C)(C)C1=CC(=C(C=C1)O)[N+](=O)[O-])[N+](=O)[O-] | C15H14N2O6
